US06509354B1
2.2 g (7.1 mmol) of [2-chloro-4-fluoro-5(3-trifluoromethyltriazolyl)phenyl]methyl sulfide was converted to 2-chloro-4-fluoro-5(3-trifluoromethyltriazolyl)thiophenol in the same manner as in Reference Example 1 and then to 1.8 g of 1,1′-thiodi-[2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)benzene (yield 85.7%) in the same manner as in Reference Example 5 (1), which was used in Example 2 (4) as the starting material.

reactant | [2-chloro-4-fluoro-5(3-trifluoromethyltriazolyl)phenyl]methyl sulfide | 7.1 mmol, 2.2 g | ClC1=C(C=C(C(=C1)F)C=1N(N=NC1)C(F)(F)F)SC | C10H6ClF4N3S
reactant | 2-chloro-4-fluoro-5(3-trifluoromethyltriazolyl)thiophenol | ClC1=C(C=C(C(=C1)F)C=1N(N=NC1)C(F)(F)F)S | C9H4ClF4N3S
product | 2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)benzene | yield 85.7% | ClC1=CC=C(C(=C1)F)C=1N(N=NC1)C(F)(F)F | C9H4ClF4N3
